US04659503
24.8 g of N-(2-pentyl-5-pyridyl)-isobutyramide (boiling point 167°-171°/0.27 bar; obtainable by reacting 2-chloro-5-nitropyridine with Na-2-butylmalonic acid diethyl ester to give 2-(5-nitro-2-pyridyl)-2-butylmalonic acid diethyl ester, hydrolysis and decarboxylation to give 2-pentyl-5-nitropyridine, hydrogenation on 10% strength Pd-C in methanol at 40°-50° under 1 bar to give 2-pentyl-5-aminopyridine and acylation with isobutyric anhydride) are dissolved in a mixture of 110 ml of acetic acid and 50 ml of acetic anhydride, 49 g of anhydrous potassium acetate are added, and a solution of 6.9 g of nitrosyl chloride in 27 ml of acetic anhydride is then added at 0°. N-nitroso-N-(2-pentyl-5-pyridyl)-isobutyramide is formed as the intermediate and is not isolated. After the mixture has been stirred at 0° for 15 minutes, it is poured onto ice and extracted five times with 140 ml of thiophene each time. The phases are separated, the organic phase is kept at 0° and made into a slurry with 22 g of K2CO3 and 35 g of Na2SO4, and the slurry is decanted. The organic phase is warmed at 50° and, when the evolution of gas has ended, boiled for 2 hours, and evaporated and the residue is separated on silica gel using toluene. 2-(2-Pentyl-5-pyridyl)-thiophene, boiling point 180°-185°/0.013 bar, c.p. -45° is obtained; a little 3-(2-pentyl-5-pyridyl)-thiophene, boiling point 170°-180°/0.015 bar, c.p. -80°, is also formed.

reactant | N-(2-pentyl-5-pyridyl)-isobutyramide | 24.8 g | C(CCCC)C1=NC=C(C=C1)NC(C(C)C)=O | C14H22N2O
reactant | potassium acetate | 49 g | C(C)(=O)[O-].[K+]
reactant | nitrosyl chloride | 6.9 g | N(=O)Cl | ClNO
solvent | acetic acid | 110 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic anhydride | 27 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-nitroso-N-(2-pentyl-5-pyridyl)-isobutyramide | N(=O)N(C(C(C)C)=O)C=1C=CC(=NC1)CCCCC | C14H21N3O2
